US04451479
3-Amino-1-(2,4-dichlorophenyl)-5-methyl-2-pyrazoline
A mixture of 7.8 g. of 2,4-dichlorophenylhydrazine (prepared from 2,4-dichlorohydrazine hydrochloride by treatment with 1 N sodium hydroxide), 9.9 g. of crotononitrile and 3 drops of choline (45% in methanol) is heated on a steam bath for 18 hours. The solution is mixed with 200 ml. of water then 20 ml. of concentrated hydrochloric acid is added and the mixture is refluxed for 1/2 hour, cooled and made basic with 10% sodium hydroxide to give a gummy solid. The solid is placed on a chromatography column containing 300 g. of a 200 mesh synthetic magnesium silicate adsorbent. The column is eluted with 1% acetone-hexane, 5% acetone-hexane and 10% acetone-hexane to remove most of the less polar material. The elution procedure is monitored by thin layer chromatography using the upper phase of a mixture of 2 parts benzene, one part acetone and 2 parts water; then the column is eluted with acetone to remove the crude product as a dark oil which partly crystallizes on standing. This material is chromatographed again using another 200 g. of the magnesium silicate adsorbent and eluting a colored impurity with 5% acetone-hexane. The column is then eluted with 50% acetone-hexane to collect a tan oil which solidifies on standing. The solid is recrystallized 3 times from ether-hexane to give 0.5 g. of the product of the Example as tan crystals, m.p. 109°-111° C.

reactant | 2,4-dichlorophenylhydrazine | 1 N | ClC1=C(C=CC(=C1)Cl)NN | C6H6Cl2N2
reactant | crotononitrile | C(\C=C\C)#N | C4H5N
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
reactant | magnesium silicate | [Si]([O-])([O-])([O-])[O-].[Mg+2].[Mg+2]
catalyst | choline | 3 drops | OCC[N+](C)(C)C
solvent | water | O | H2O
product | 3-Amino-1-(2,4-dichlorophenyl)-5-methyl-2-pyrazoline | NC1=NN(C(C1)C)C1=C(C=C(C=C1)Cl)Cl | C10H11Cl2N3
